US07737152B2
2-Chloro-6-(2-fluorophenyl-oxy)-pyrazine, CJS 430(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 2-fluorophenol (166 μL, 1.86 mmol, d=1.26 g/mL), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (302 mg). Yield: 80%. 1H NMR (250 MHz, DMSO-d8) δ 7.31-7.45 (m, 4H, Harom), 8.56 (s, 1H, HPz 5), 8.67 (s, 1H, HPz 3).

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-fluorophenol | 1.86 mmol, 166 μL | FC1=C(C=CC=C1)O | C6H5FO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(2-fluorophenyl-oxy)-pyrazine | Yield: 80% | ClC1=NC(=CN=C1)OC1=C(C=CC=C1)F | C10H6ClFN2O
